US07262212B2
A mixture of 2-chloro-4-nitro-1H-imidazole (891 mg, 6.04 mmol), 1-(2-methyloxiran-2-ylmethyl)-1H-benzo[d][1,3]oxazin-2,4-dione (1.41 g, 6.04 mmol), sodium acetate (545 mg, 6.64 mmol) and ethanol (10 ml) was stirred under reflux for 10 hours. The reaction mixture was allowed to return to room temperature, and concentrated under reduced pressure. To the residue, water was added, and the solution was extracted with methylene chloride. The organic phase was washed with a saturated saline solution and dried over sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the residue was dissolved in 1,4-dioxane (20 ml). To the solution, sodium hydride (219 mg, 5.48 mmol) was added followed by stirring under reflux for 5 hours. The reaction mixture was allowed to return to room temperature and concentrated under reduced pressure. To the residue, ice-water was added, and the precipitates were filtered off, which were purified by silica gel column chromatography (methylene chloride/ethyl acetate=20/1) to afford N-(2-ethoxycarbonylphenyl)-2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethylamine (1.15 g, yield 55%) as a white powder.

reactant | 2-chloro-4-nitro-1H-imidazole | 6.04 mmol, 891 mg | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | 1-(2-methyloxiran-2-ylmethyl)-1H-benzo[d][1,3]oxazin-2,4-dione | 6.04 mmol, 1.41 g | CC1(OC1)CN1C(OC(C2=C1C=CC=C2)=O)=O | C12H11NO4
reactant | sodium acetate | 6.64 mmol, 545 mg | C(C)(=O)[O-].[Na+]
reactant | sodium hydride | 5.48 mmol, 219 mg | [H-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(2-ethoxycarbonylphenyl)-2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethylamine | 1.15 g, yield 55% | C(C)OC(=O)C1=C(C=CC=C1)NCC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C | C16H18N4O5
